US05166152
2-Cyano-3-(1,4-dihydro-6-hydroxymethyl-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide (1.2 g) is reacted with succinic anhydride (0.8 g) in anhydrous pyridine (40 ml) under stirring at 45° C. for 20 hours. After cooling the reaction mixture is diluted in ice water and the precipitate is filtered and washed with water. Crystallization from CH2Cl2 /isopropanol yields 0.95 g of 3-[6-(3-carboxy-propanoyloxymethyl)-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl]-2-cyano-3-oxo-N-phenyl-propanamide.

reactant | 2-Cyano-3-(1,4-dihydro-6-hydroxymethyl-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide | 1.2 g | C(#N)C(C(=O)NC1=CC=CC=C1)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(SC2)C(=CC=C1)CO | C27H20N4O3S
reactant | succinic anhydride | 0.8 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3-[6-(3-carboxy-propanoyloxymethyl)-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl]-2-cyano-3-oxo-N-phenyl-propanamide | 0.95 g | C(=O)(O)CCC(=O)OCC1=CC=CC2=C1SCC1=C2N(N=C1C(C(C(=O)NC1=CC=CC=C1)C#N)=O)C1=CC=CC=C1 | C31H24N4O6S
